US06602861B1
The preparation of D-AC2 was identical to L-AC2 except D-glycerolphosphocholine, which was obtained from Synthetische Phosphor-Lipide, Biochemisches Labor, Bern CH Switzerland was used. L-PE2 was prepared by reacting glycerolphosphatidylethanolamine (L-α-GPE) with N-(9-Fluorenylmethoxycarbonyloxy) succinimide (FMOC-succinimide) to form L-α-GPE-FMOC followed by diacylation with 12MO anhydride then deprotection of FMOC with piperidine. L-PE1 was prepared by diacylating L-α-GPE-FMOC with myristic anhydride, then PLA2 cleavage to remove the sn-2 chain, then acylation with 12MO anhydride, and finally deprotection with piperidine to remove FMOC.

reactant | D-AC2 | C[N+](C)(C)CCOP(=O)(O)OC[C@@H](COC(=O)CCCCCCCCCCCOC)OC(=O)CCCCCCCCCCCOC
reactant | L-AC2 | C[N+](C)(C)CCOP(=O)([O-])OC[C@@H](COC(=O)CCCCCCCCCCCOC)OC(=O)CCCCCCCCCCCOC | C34H68NO10P
reactant | N-(9-Fluorenylmethoxycarbonyloxy) succinimide | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | myristic anhydride | C(CCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCC)=O | C28H54O3
product | L-PE2 | COCCCCCCCCCCCC(=O)OC[C@@H](COP(=O)(O)OCCN)OC(=O)CCCCCCCCCCCOC | C31H62NO10P
